US09023858B2
B) 2-(2,2,2-trifluoroethoxy)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione
2-(Methylsulfinyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (150 mg) was suspended in tetrahydrofuran (5 ml), 2,2,2-trifluoroethanol (108 μl) was added thereto, and then sodium hydride (60% in oil, 37.6 mg) was added thereto under ice-cooling, and the mixture was stirred for 10 min. To the reaction mixture was added 0.5M hydrochloric acid (4 ml), and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained white residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (128 mg) as a white solid.

reactant | 2-(Methylsulfinyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 150 mg | CS(=O)C=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C16H12F3N3O4S
reactant | 2,2,2-trifluoroethanol | 108 μl | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | 37.6 mg | [H-].[Na+]
reactant | hydrochloric acid | 0.5M, 4 ml | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(2,2,2-trifluoroethoxy)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 128 mg | FC(COC=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F)(F)F | C17H11F6N3O4
